US04210589
N-allyl-m-trifluoromethyl-dichloroacetanilide preparation
Twenty-three and eight tenths grams of N-allyl m-trifluoromethyl aniline hydrochloride was suspended in 200 ml. of methylene chloride, 21 g. of triethylamine was added and the mixture stirred in a water bath at room temperature while 15 g. of dichloroacetyl chloride was added dropwise. After stirring about 30 minutes, after addition was complete, the mixture was washed with dilute ~1% sodium hydroxide, dilute ~1% hydrochloric acid and water, separated and dried over magnesium sulfate and the solvent stripped under vacuum. The product was dissolved in ether and treated with 10 g. of 20% ethereal hydrochloric acid, the precipitate filtered off and the ether stripped under vacuum to give 25 g. of product, nD30 1.4740.

reactant | N-allyl m-trifluoromethyl aniline hydrochloride | Cl.C(C=C)NC1=CC(=CC=C1)C(F)(F)F
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-allyl-m-trifluoromethyl-dichloroacetanilide | C(C=C)N(C1=CC(=CC=C1)C(F)(F)F)C(C(Cl)Cl)=O | C12H10Cl2F3NO
